US03984336
β-n-Hexylmercaptopropionitrile was prepared according to the procedure of Example 1 using 1-hexanethiol (25.0 g; 0.21 moles), acrylonitrile (11.2 g; 0.21 moles) and sodium methoxide (0.5 g).

reactant | 1-hexanethiol | 0.21 moles, 25.0 g | C(CCCCC)S | C6H14S
reactant | acrylonitrile | 0.21 moles, 11.2 g | C(C=C)#N | C3H3N
reactant | sodium methoxide | 0.5 g | C[O-].[Na+]
product | β-n-Hexylmercaptopropionitrile | C(CCCCC)SCCC#N | C9H17NS
